US04710573
1-Benzoyl-6-chloro-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride
A mixture of 3.0 g of 6-chloro-3-(1-methyl-4-piperidinyl)-1H-indazole and 8 ml of benzoyl chloride was heated at 100° C. on a steam bath for 4 hrs. The reaction mixture was cooled to ambient temperature and ether was added. The precipitate was filtered, washed with ether and dried. Recrystallization from ethanol (twice) yielded 2.6 g (56%) of product, mp 248°-250° C.

reactant | 6-chloro-3-(1-methyl-4-piperidinyl)-1H-indazole | 3.0 g | ClC1=CC=C2C(=NNC2=C1)C1CCN(CC1)C | C13H16ClN3
reactant | benzoyl chloride | 8 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | ether | CCOCC | C4H10O
product | 1-Benzoyl-6-chloro-3-(1-methyl-4-piperidinyl)-1H-indazole hydrochloride | 2.6 g, 56% | Cl.C(C1=CC=CC=C1)(=O)N1N=C(C2=CC=C(C=C12)Cl)C1CCN(CC1)C | InChI=1S/C20H20ClN3O.ClH/c1-23-11-9-14(10-12-23)19-17-8-7-16(21)13-18(17)24(22-19)20(25)15-5-3-2-4-6-15;/h2-8,13-14H,9-12H2,1H3;1H
